US20010011090A1
Sodium methoxide (257 mg) was added to a mixture of 3′-acetyl-4-chlorobenzanilide (1.00 g) and methanol (10 ml) under ice-cooling, followed by stirring at room temperature for 2 hours. Ethyl trifluoroacetate (0.522 ml) was added to the reaction solution under ice-cooling, followed by stirring under heat reflux for 3 days. Water (50 ml) was added to the reaction mixture, the thus formed product was extracted with ethyl acetate and then the extract was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=2:1 - 1:1) to give a light yellow oil. A mixture of this oil with methyl hydrazine (0.122 ml), acetic acid (1 ml) and ethanol (10 ml) was stirred under heat reflux for 15 hours. After spontaneous cooling, the reaction solution was concentrated under a reduced pressure. After adding ethyl acetate, the thus obtained residue was washed with saturated sodium bicarbonate aqueous solution and saturated brine in that order. The organic layer was dried over anhydrous sodium sulfate and then concentrated under a reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=6:1) and then recrystallized from a mixed solvent of ethyl acetate and n-hexane to give 4-chloro-3′-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)benzanilide (60 mg) as colorless powder crystals.

reactant | Sodium methoxide | 257 mg | C[O-].[Na+]
reactant | 3′-acetyl-4-chlorobenzanilide | 1.00 g | C(C)(=O)C=1C=C(NC(C2=CC=C(C=C2)Cl)=O)C=CC1 | C15H12ClNO2
reactant | Ethyl trifluoroacetate | 0.522 ml | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | methyl hydrazine | 0.122 ml | CNN | CH6N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | Water | 50 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 4-chloro-3′-(1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)benzanilide | 60 mg | ClC1=CC=C(C(=O)NC2=CC(=CC=C2)C2=NN(C(=C2)C(F)(F)F)C)C=C1 | C18H13ClF3N3O
